US04231928
(a) 3-Ethoxycarbonyl-7-chloro-4-oxo-4H-pyrimido-[1,2-b]pyridazine (VII)
A mixture of 3-chloro-6-aminopyridazine [J. Druey et al., Helv. Chim. Acta., 37, 121 (1954)] (8.20 g, 63.56 m mol) and ethyl ethoxymethylenemalonate (15.0 g, 69.4 m mol) in diphenyl ether (70 ml) was heated to distil out ethanol produced. After cooling, the mixture was diluted with n-hexane (300 ml) to precipitate the crude title product, which was dissolved in chloroform (200 ml), treated with a small amount of carbon and evaporated under reduced pressure to 50 ml. The residual solution was diluted with n-hexane (200 ml) to precipitate pure title product. Yield, 7.73 g (56%), M.p. 149°-152° C.

reactant | 3-chloro-6-aminopyridazine | 8.20 g | ClC=1N=NC(=CC1)N | C4H4ClN3
reactant | ethyl ethoxymethylenemalonate | 15.0 g | C(C)OC=C(C(=O)OCC)C(=O)[O-]
solvent | diphenyl ether | 70 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | n-hexane | 300 ml | CCCCCC | C6H14
product | 3-Ethoxycarbonyl-7-chloro-4-oxo-4H-pyrimido-[1,2-b]pyridazine | C(C)OC(=O)C1=CN=C2N(N=C(C=C2)Cl)C1=O | C10H8ClN3O3
